US07662809B2
Step 1: methyl 2-[bis(tert-butoxycarbonyl)amino]acrylate
To a solution of methyl N-(tert-butoxycarbonyl)serinate in MeCN (0.9 M) were added 2.5 eq of di-tert-butyl dicarbonate and 0.1 eq of DMAP. The solution was stirred at RT for 48 h, before being quenched with saturated aqueous NaHCO3 and extracted (twice) with EtOAc. The combined organics were washed with saturated aqueous NH4Cl and brine before being dried over Na2SO4, filtered and concentrated in vacuo to give the title compound as a cream solid (quantitative); MS (ES+) m/z 324 (M+Na)+.

reactant | methyl N-(tert-butoxycarbonyl)serinate | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)OC | C9H17NO5
reactant | di-tert-butyl dicarbonate | 2.5 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 0.9 M | CC#N | C2H3N
catalyst | DMAP | 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 2-[bis(tert-butoxycarbonyl)amino]acrylate | C(C)(C)(C)OC(=O)N(C(C(=O)OC)=C)C(=O)OC(C)(C)C | C14H23NO6
